US07119205B2
2-Bromo-4-hydroxy-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile
To a stirred solution of 4-hydroxy-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile (35 mg, 0.1 mmol) in acetic acid (1 mL) was added N-bromosuccinamide (18 mg, 0.1 mmol) in a single portion at room temperature, and stirred at rt overnight. The reaction mixture was concentrated and purified by reverse phase HPLC to afford the titled compound. MS (ESI) m/e 428 (M−H)+; 1H NMR (300 MHz, DMSO-d6): δ 1.68–1.75 (m, 2H), 3.51–3.57 (m, 2H), 4.54 (t, J=5.26 Hz, 2H), 7.19 (d, J=8.48 Hz, 2H), 7.31 (d, J=8.48 Hz, 2H).

reactant | 4-hydroxy-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | 0.1 mmol, 35 mg | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C#CCCCO | C19H14N2O3S
reactant | N-bromosuccinamide | 0.1 mmol, 18 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-hydroxy-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | BrC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)C#CCCCO | C19H13BrN2O3S
